US07713994B2
4-(3,5-Dimethyl-piperazin-1-yl)-phenylamine
3,5-Dimethyl-1-(4-nitro-phenyl)-piperazine (1.40 g, 5.90 mmol) is dissolved in 20 ml of methanol with ˜1 g of Raney nickel suspension. Hydrazine (0.576 g, 14.9 mmol) is dissolved in 20 ml of methanol and added dropwise to the reaction mixture over 20 minutes. Mixture is stirred at room temperature for 3 hours. Mixture is filtered through celite and reduced on rotovap to afford the product as a black solid (1.05 g, 67%); 1H NMR (DMSO-d6) δ 0.94 (d, J=6.3 Hz, 6H), 1.93-2.00 (m, 2H), 2.65-2.85 (m, 3H), 3.13-3.20 (m, 2H), 4.45 (bs, 2H), 6.43 (d, J=8.5 Hz, 2H), 6.61 (d, J=8.5 Hz, 2H).

reactant | 3,5-Dimethyl-1-(4-nitro-phenyl)-piperazine | 5.90 mmol, 1.40 g | CC1CN(CC(N1)C)C1=CC=C(C=C1)[N+](=O)[O-] | C12H17N3O2
reactant | Hydrazine | 14.9 mmol, 0.576 g | NN | H4N2
solvent | methanol | 20 ml | CO | CH4O
catalyst | Raney nickel | ˜1 g | [Ni] | Ni
solvent | methanol | 20 ml | CO | CH4O
product | 4-(3,5-Dimethyl-piperazin-1-yl)-phenylamine | 1.05 g, 67% | CC1CN(CC(N1)C)C1=CC=C(C=C1)N | C12H19N3
